US07220862B2
(R)-2-Benzyloxycarbonylamino-3-(2-oxo-2,3-dihydro-1H-indol-5-yl)-propionic acid methyl ester
PyHBr3 (1.28 g, 4.02 mmol) was added in small portions over 30 min to a solution of (R)-2-benzyloxycarbonylamino-3-(1H-indol-5-yl)-propionic acid methyl ester (0.47 g, 1.34 mmol) in t-butanol (10 mL) while the reaction temperature was maintained between 25–30° C. The resulting mixture was stirred at room temperature for 3.5 h. The solvent was removed in vacuo, and the residue was extracted with ethyl acetate (2×). The combined organic phases were washed with brine and dried over sodium sulfate. After filtration, solvents were removed and the residue was azeotropically dried with anhydrous ethanol. The residue was dissolved in glacial acetic acid (10 mL) and zinc powder (0.88 g, 13.4 mmol) was added. The mixture was stirred at room temperature overnight. After the acetic acid was removed in vacuo, the residue was purified by flash chromatography on silica gel using ethyl acetate/hexanes [(1:3) first and then (3:2)] as eluent to afford the title compound as a white solid (41% for 2 steps). 1H-NMR (CDCl3, 500 MHz) δ 8.03 (s, 1H), 7.36–7.31 (m, 5H), 6.94 (s, 1H), 6.91 (d, J=8.0 Hz, 1H), 6.73 (d, J=7.5 Hz, 1H), 5.26 (d, J=8.0 Hz, 1H), 5.11 (d, J=12.0 Hz, 1H), 5.05 (d, j=12.5 Hz, 1H), 4.61 (dd, J=13.5, 6.0 hz, 1H), 3.72 (s, 3H), 3.45 (s, 2H), 3.10 (dd, J=14.0, 5.5 Hz, 1H), 3.00 (dd, J=14.0, 6.0 Hz, 1H). 13CNMR (CDCl3, 125 MHz) δ 177.7, 172.2, 155.7, 141.7, 136.3, 129.8, 128.9, 128.6, 128.3, 128.2, 125.8, 125.6, 109.8, 67.1, 55.1, 52.5, 38.0, 36. Mass spec. 369.20 (MH)+.

reactant | (R)-2-benzyloxycarbonylamino-3-(1H-indol-5-yl)-propionic acid methyl ester | 1.34 mmol, 0.47 g | COC([C@@H](CC=1C=C2C=CNC2=CC1)NC(=O)OCC1=CC=CC=C1)=O | C20H20N2O4
reactant | t-butanol | 10 mL | C(C)(C)(C)O | C4H10O
catalyst | zinc | 13.4 mmol, 0.88 g | [Zn] | Zn
product | (R)-2-Benzyloxycarbonylamino-3-(2-oxo-2,3-dihydro-1H-indol-5-yl)-propionic acid methyl ester | 41% | COC([C@@H](CC=1C=C2CC(NC2=CC1)=O)NC(=O)OCC1=CC=CC=C1)=O | C20H20N2O5
